US07169789B2
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-(2-methylphenyl)urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in chloroform (3 ml), and o-toluyl isocyanate (0.25 μl) was then added to the solution. The mixture was heated under reflux overnight. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol to give 30 mg (yield 41%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | o-toluyl isocyanate | 0.25 μl | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
reactant | Methanol | CO | CH4O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-(2-methylphenyl)urea | 30 mg, yield 41% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C | C24H22N4O4
